US04737495
(a) 2-(N-Formyl-2-amino-ethyl)-furan
Here, 2-(2-amino-ethyl)furan (10.0 g, 0.090 mol) is refluxed with ethyl formate (80 ml, 1.0 mol) for 12 hours. The reaction product is concentrated by evaporation and distilled in vacuo.

reactant | 2-(2-amino-ethyl)furan | 0.090 mol, 10.0 g | NCCC=1OC=CC1 | C6H9NO
reactant | ethyl formate | 1.0 mol, 80 ml | C(=O)OCC | C3H6O2
product | 2-(N-Formyl-2-amino-ethyl)-furan | C(=O)NCCC=1OC=CC1 | C7H9NO2
